US05972975
EXAMPLE 45 2-Amino-5-aminomethyl-4-methylpyridine dihydrochloride
A solution of 2-amino-5-cyano-4-methylpyridine (200 mg, 1.50 mmol) in a mixture of ethanol (17 mL) and methanol (7 mL) was hydrogenated for 48 h at atmospheric pressure in the presence of 1N hydrochloric acid (3 mL) and 10% palladium-on-charcoal (50 mg). The catalyst was removed by filtration through Celite, the filter washed with methanol, and the combined filtrate and washings evaporated. Crystallization from chloroform-methanol afforded pure title compound; yield 98 mg (31%).

reactant | 2-amino-5-cyano-4-methylpyridine | 1.50 mmol, 200 mg | NC1=NC=C(C(=C1)C)C#N | C7H7N3
reactant | hydrochloric acid | 1N, 3 mL | Cl | ClH
solvent | ethanol | 17 mL | C(C)O | C2H6O
solvent | methanol | 7 mL | CO | CH4O
catalyst | palladium-on-charcoal | 50 mg | [Pd] | Pd
product | 2-Amino-5-aminomethyl-4-methylpyridine dihydrochloride | Cl.Cl.NC1=NC=C(C(=C1)C)CN | InChI=1S/C7H11N3.2ClH/c1-5-2-7(9)10-4-6(5)3-8;;/h2,4H,3,8H2,1H3,(H2,9,10);2*1H
